US05597848
Methyl 4-(4-Cinnamoylphenyl)butyrate
To a solution of 10.00 g of 4-(4-cinnamoylphenyl)butyric acid in 50 ml of methanol, 0.25 ml of sulfuric acid was added, and the mixture was refluxed for 1 hour. The solvent was removed under reduced pressure, and then the residue was added with water and extracted with ether. The ether layer was washed with water and dried, and then the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (methylene chloride:n-hexane=3:2) to yield 8.94 g of pale yellow crystals. Recrystallization from n-hexane gave pale yellow needles, mp 43°~44° C.

reactant | 4-(4-cinnamoylphenyl)butyric acid | 10.00 g | C(C=CC1=CC=CC=C1)(=O)C1=CC=C(C=C1)CCCC(=O)O | C19H18O3
reactant | methanol | 50 ml | CO | CH4O
solvent | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 4-(4-Cinnamoylphenyl)butyrate | 8.94 g | C(C=CC1=CC=CC=C1)(=O)C1=CC=C(C=C1)CCCC(=O)OC | C20H20O3
